US04666936
Preparation of 2-(p-phthalimidobenzyl)-butyric acid ethyl ester (compound 3)
A mixture of ethyl-2-(p-aminobenzyl)-butyrate (4.4 g) and phthalic anhydride (3 g) is heat melted until ceasing of water evolution (5 minutes). After cooling, the solid as obtained is crystallized from ethanol. Yield: 4.8 g (68.6%); m.p. 86°-87° C. Analysis:

reactant | ethyl-2-(p-aminobenzyl)-butyrate | 4.4 g | C(C)OC(C(CC)CC1=CC=C(C=C1)N)=O | C13H19NO2
reactant | phthalic anhydride | 3 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | water | O | H2O
product | 2-(p-phthalimidobenzyl)-butyric acid ethyl ester | C(C)OC(C(CC)CC1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C21H21NO4
